US04332820
2-(2,4-Dichlorophenoxy)-5-nitrobenzonitrile
To a solution of 5.0 g (0.0307 moles) of 2,4-dichlorophenol dissolved in 150 ml of DMSO was added 1.23 g (0.0307 moles) of NaOH. The slurry was heated at 60° C. for 15 minutes and 5.04 g (0.0276 moles) of 2-chloro-5-nitrobenzonitrile was added. The mixture was heated at 75° C. for 3.25 hrs. The reaction mixture was cooled and poured into water. The product was collected by filtration, washed well with water and dried, yielding 8.1 g of product (95.3% yield). Recrystallization from ethanol afforded purified 2-(2,4-dichlorophenoxy)-5-nitrobenzonitrile, mp 153.5°-154.5° C.

reactant | 2,4-dichlorophenol | 0.0307 moles, 5.0 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | NaOH | 0.0307 moles, 1.23 g | [OH-].[Na+]
reactant | 2-chloro-5-nitrobenzonitrile | 0.0276 moles, 5.04 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | water | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 2-(2,4-Dichlorophenoxy)-5-nitrobenzonitrile | 8.1 g, 95.3% yield | ClC1=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=CC(=C1)Cl | C13H6Cl2N2O3
